US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(3-BROMO-5-IODO-4-METHYL-2-THIENYL)METHYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 3-bromo-5-iodo-4-methyl-thiophene-2-carbaldehyde. MS (ESI) m/z 693.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 3-bromo-5-iodo-4-methyl-thiophene-2-carbaldehyde | BrC1=C(SC(=C1C)I)C=O | C6H4BrIOS
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(3-BROMO-5-IODO-4-METHYL-2-THIENYL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1SC(=C(C1Br)C)I)C(F)(F)F | C29H21BrF3IN2S
